US07429665B2
2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoxaline
To a solution of 4-(1-Methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol (50 mg) in dioxane (2 ml) was added triphenylphosphine (84 mg), quinoxaline-2-yl-methanol (48 mg) and di-t-butyl-aza-dicarboxylate (73 mg) and the reaction mixture was heated at 60° C. for 18 h. The reaction mixture was poured into 1N NaOH, extracted 3× methylene chloride, dried magnesium sulfate, filtered and concentration Purification via MPLC biotage chromatography provided the title compound (54 mg, 67%). 1H NMR (400 MHz, CDCl3) δ 9.09 (s, 1H), 8.45 (d, J=6.2 Hz, 2H), 8.10 (m, 2 H), 7.77 (m, 2H), 7.55 (s, 1H), 7.37 (d, J=9.1 Hz, 2H), 7.10 (d, J=6.9 Hz, 2 H), 7.01 (d, J=8.7, 2H), 5.41 (s, 2 H), 3.94 (s, 3H); MS: (M+H m/z=394.4).

reactant | 4-(1-Methyl4-pyridin-4-yl-1H-pyrazol-3-yl)-phenol | 50 mg | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C15H13N3O
reactant | triphenylphosphine | 84 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | quinoxaline-2-yl-methanol | 48 mg | N1=C(C=NC2=CC=CC=C12)CO | C9H8N2O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-[4-(1-Methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoxaline | 54 mg, 67% | CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3N=C2)C=C1 | C24H19N5O
